US06723722B1
4-Benzyloxycarbonyl-2-piperazinone
A mixture of 2-piperazinone (10 g), benzyl chlorocarbonate (20.5 g) and sodium carbonate (31.8 g) in ethyl acetate (200 ml) and water (200 ml) was stirred at room temperature for 2 hours. The organic phase was separated, washed with brine, dried (MgSO2) and concentrated. The obtained crystals were collected by filtration, washed with ethyl acetate—ether and dried to obtain the title compound (18.5 g) as colorless crystals.

reactant | 2-piperazinone | 10 g | N1C(CNCC1)=O | C4H8N2O
reactant | benzyl chlorocarbonate | 20.5 g | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | sodium carbonate | 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 4-Benzyloxycarbonyl-2-piperazinone | 18.5 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
